US05494916
2,6-Dimethyl-1-(2-phenylethyl)-1H-imidazo[4,5-c]pyridin-4-amine
Palladium hydroxide on carbon (0.5 g, Pearlman's catalyst) was added to a mixture of 2,6-dimethyl-1-(2-phenylethyl)-N4,N4 -bis(phenylmethyl)-1H-imidazo[4,5-c]pyridin-4-amine (2.3 g, 5.15 mmole) in formic acid (10 mL). The reaction mixture was heated at reflux overnight. An additional 0.5 g of catalyst was added and refluxing was continued overnight. The reaction mixture was neutralized with saturated sodium bicarbonate solution, diluted with methanol then filtered through a layer of celite to remove the catalyst. The celite layer was flushed with methylene chloride and methanol. The filtrates were combined and concentrated under vacuum to provide a mixture of water and a solid. This mixture was extracted with methylene chloride. The extract was washed with water, dried over magnesium sulfate and concentrated under vacuum to provide 1.2 g of a tan solid. This solid was recrystallized from ethanol to provide 0.24 g of the desired product as a solid, m.p. 185°-187° C. Analysis: Calculated for C16H18N4 : % C, 72.15; % H, 6.81; % N, 21.04; Found: % C, 71.51; % H, 6.88; % N, 20.61.

reactant | 2,6-dimethyl-1-(2-phenylethyl)-N4,N4 -bis(phenylmethyl)-1H-imidazo[4,5-c]pyridin-4-amine | 5.15 mmole, 2.3 g | CC=1N(C2=C(C(=NC(=C2)C)N(CC2=CC=CC=C2)CC2=CC=CC=C2)N1)CCC1=CC=CC=C1 | C30H30N4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | formic acid | 10 mL | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
catalyst | Palladium hydroxide on carbon | 0.5 g | [OH-].[OH-].[Pd+2]
product | 2,6-Dimethyl-1-(2-phenylethyl)-1H-imidazo[4,5-c]pyridin-4-amine | 1.2 g | CC=1N(C2=C(C(=NC(=C2)C)N)N1)CCC1=CC=CC=C1 | C16H18N4
